US06720338B2
methyl 4-(2,4-dioxo-3-azabicyclo(3.1.0)hex-3-yl)benzoate
The desired product was prepared by substituting methyl 4-aminobenzoate and 3-oxabicyclo(3.1.0)hexane-2,4-dione for ethyl 4-aminobenzoate and 3,3-dimethylglutaric anhydride, respectively, in Example 119A. MS (DCI) m/e 263 (M+NH4)+.

reactant | 3-oxabicyclo(3.1.0)hexane-2,4-dione | C12C(OC(C2C1)=O)=O | C5H4O3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3,3-dimethylglutaric anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
product | methyl 4-(2,4-dioxo-3-azabicyclo(3.1.0)hex-3-yl)benzoate | O=C1C2CC2C(N1C1=CC=C(C(=O)OC)C=C1)=O | C13H11NO4
